US05262533
17-Ethyl-1-hydroxy-12-[2'-(4"-acetoxyacetylamino-3"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
A solution of 17-ethyl-1-hydroxy-12-[2'-(4"-amino-3"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (42 mg) in dry methylene chloride (0.4 ml) is cooled to 0° C. To this solution is added a solution of acetoxyacetyl chloride (9 mg) in methylene chloride (0.5 ml). The reaction mixture is stirred at 0° C. for 30 minutes, and quenched with a drop of methanol. Purification by preparative tlc on silica gel gives the title compound.

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-amino-3"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 42 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N)OC2=CC=CC=C2)C)C)=O | C48H72N2O10
reactant | acetoxyacetyl chloride | 9 mg | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | methylene chloride | 0.4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-acetoxyacetylamino-3"-phenoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)NC(COC(C)=O)=O)OC2=CC=CC=C2)C)C)=O | C52H76N2O13
